*** MODEL Descriptions ***

*** NETLIST Description ***
.subckt cmos_inverter my_out my_in my_vdd my_vss 
M1 my_out my_in my_vdd my_vdd pmos W=0.375u L=0.25u
M2 my_out my_in my_vss my_vss nmos W=0.375u L=0.25u

.ends
